US07544704B2
2-[3-(3-Chloro-4-methoxy-phenyl)-5-methyl-isoxazol-4-ylethynyl]-pyridine
As described for example 11c, 3-(3-chloro-4-methoxy-phenyl)-4-ethynyl-5-methyl-isoxazole (134 mg, 0.50 mmol) instead of 4-ethynyl-5-methyl-3-phenyl-isoxazole was converted (using 2-bromopyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 117 mg, 72%) which was obtained as a white solid. MS: m/e=325.2 [M+H]+.

reactant | 3-(3-chloro-4-methoxy-phenyl)-4-ethynyl-5-methyl-isoxazole | 0.50 mmol, 134 mg | ClC=1C=C(C=CC1OC)C1=NOC(=C1C#C)C | C13H10ClNO2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 2-[3-(3-Chloro-4-methoxy-phenyl)-5-methyl-isoxazol-4-ylethynyl]-pyridine | 117 mg, 72% | ClC=1C=C(C=CC1OC)C1=NOC(=C1C#CC1=NC=CC=C1)C | C18H13ClN2O2
